US09446034B2
2-({5-Chloro-2-[(1-ethyl-4-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)-N-(methyloxy)benzamide
A microwave tube was charged with 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide (300 mg, 0.96 mmol), 1-ethyl-4-methyl-1H-pyrazol-5-amine (253 mg, 2.01 mmol), cesium carbonate (939 mg, 2.88 mmol) and DMF (7 ml). The reaction mixture was degassed under nitrogen for 10 min and palladium (II) acetate (10.8 mg, 0.05 mmol) and BINAP (59.8 mg, 0.096 mmol) were added. The reaction mixture was heated in an oil bath at 90° C. for 5 hrs and then in a microwave at 150° C. for 50 min. It was evaporated and the residue was dissolved in MeOH, filtered thru celite and thru an Acrodisc and purified further on preparative Agilent HPLC (5 to 95% water:acetonitrile with 0.1% formic acid). Fractions were combined and evaporated. The brown oil residue was diluted in DMF and water was added. A precipitate crashed out. It was filtered off and dried under vacuum at 40° C. for 5 hrs. LC-MS [M+H]+=401.1. 1H NMR (400 MHz, DMSO-d6) ppm 11.92 (s, 1 H) 9.48 (br. s., 1 H) 8.27 (s, 1 H) 7.94 (s, 1 H) 7.59 (d, J=7.58 Hz, 1 H) 7.51 (d, J=3.54 Hz, 2 H) 7.22 (s, 1 H) 7.09-7.16 (m, 1 H) 6.40 (s, 1 H) 3.85 (q, J=7.33 Hz, 2 H) 3.71 (s, 3 H) 1.79 (s, 3 H) 1.21 (t, J=7.20 Hz, 3 H).

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide | 0.96 mmol, 300 mg | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)Cl | C13H11Cl2N3O2
reactant | 1-ethyl-4-methyl-1H-pyrazol-5-amine | 2.01 mmol, 253 mg | C(C)N1N=CC(=C1N)C | C6H11N3
reactant | cesium carbonate | 2.88 mmol, 939 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.096 mmol, 59.8 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | palladium (II) acetate | 0.05 mmol, 10.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 2-({5-Chloro-2-[(1-ethyl-4-methyl-1H-pyrazol-5-yl)amino]-4-pyridinyl}amino)-N-(methyloxy)benzamide | ClC=1C(=CC(=NC1)NC1=C(C=NN1CC)C)NC1=C(C(=O)NOC)C=CC=C1 | C19H21ClN6O2
